Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1],3.67726405809
[H:1][C:2]#[C:3][H:4].[O:5][O:6][C:7]([H:8])=[C:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])=[C:9][H:10],-0.35550589163900004
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[O:4]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-4.02634469712
[H:1][O:2]/[C:3](=[C:4](/[H:5])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.99215278406
[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17],-4.17604035776
[H:1][C:2]1[O:3][C:4][C:5]([H:6])=[C:7][C:8]1([H:9])[H:10]>>[H:1][C:2][O:3][C:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],1.40539785585
[C:4](=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],-1.70847137771
[C:6]([H:7])([H:8])[H:9].[H:1][C:2]#[C:3][O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9],-1.7703398832
[O:1][C:2]#[C:3][C:4]#[C:5][O:6][H:7]>>[C:4]#[C:5][O:6][H:7].[O:1][C:2][C:3],6.14930009905
[O:1]=[C:2]([O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2][C:10]([H:11])([H:12])[H:13].[O:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9],1.14441797827
[H:7].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:8](=[O:9])[H:10]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10],-4.01538443915
[C:3]([H:4])=[C:5]([H:6])[O:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][O:8][C:9]([H:10])([H:11])[H:12],-6.495834320519999
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11].[H:4],1.97627630247
[C:1][C:2]([H:3])([H:4])[C:6]=[C:7]([H:8])[H:11].[C:5]#[C:9][H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([C:6]#[C:7][H:8])=[C:9]([H:10])[H:11],-6.1243486666
[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4][H:5],2.6730368845
[O:1]=[C:2]([H:3])[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[C:8]([H:9])[O:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7],5.04928196029
[C:1]#[C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][O:3][C:4][C:5]([H:6])([H:7])[H:8].[C:9]([H:10])([H:11])[H:12],4.98997072952
[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]#[C:7][C:8]([H:9])([H:10])[H:11].[O:6],2.86614275285
[H:1][C:2]#[C:3][C:4]([H:5])([C:6]#[C:7][H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([C:6]#[C:7][H:8])=[C:9]([H:10])[H:11].[H:5],1.3750233162
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8],1.87561075843
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[H:7],4.61114819376
[H:1][C:2][O:13][C:10]([C:7]([C:4]([O:3])([H:5])[H:6])([H:8])[H:9])([H:11])[H:12]>>[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13]1,-3.37891080397
[H:1][C:2][O:3][C:4]([H:5])[C:6]#[C:7][H:8].[H:9]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9],-4.05694348269
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11].[H:1],5.56455426057
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:7]([H:8])([O:9][C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][C:3]([H:4])([H:5])[H:6],4.49550985287
[H:1][O:2][C:3]([H:4])([C:5]([H:6])=[C:7][H:8])[C:11](=[C:9][H:10])[H:12]>>[H:1][O:2][C:3]1([H:4])[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])=[C:11]1[H:12],-4.66174867542
[C:1].[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-5.6243937779
[C:1]#[C:2][C:4](=[O:5])[H:6].[H:3]>>[C:1]=[C:2]([H:3])[C:4](=[O:5])[H:6],-4.04419738423
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:3],10.60613938
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:13][H:14],5.36225706597
